US07638515B2
2-(Bromomethyl)-3-nitrobenzoic acid methyl ester
25.55 g (130.9 mmol) of 2-methyl-3-nitrobenzoic acid methyl ester is added to 300 ml of carbon tetrachloride, and mixed with 25.6 g (141.7 mmol) of N-bromosuccinimide and 62.8 mg of benzoyl peroxide. After seven days of refluxing, the succinimide is suctioned off after cooling, and then the filtrate is spun in until a dry state is reached. The desired compound that is incorporated in crude form into the next stage remains.

reactant | 2-methyl-3-nitrobenzoic acid methyl ester | 130.9 mmol, 25.55 g | COC(C1=C(C(=CC=C1)[N+](=O)[O-])C)=O | C9H9NO4
reactant | N-bromosuccinimide | 141.7 mmol, 25.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 62.8 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | succinimide | C1(CCC(N1)=O)=O | C4H5NO2
solvent | carbon tetrachloride | 300 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(Bromomethyl)-3-nitrobenzoic acid methyl ester | COC(C1=C(C(=CC=C1)[N+](=O)[O-])CBr)=O | C9H8BrNO4
